US04960884
In a manner similar to that disclosed in German Offenlegungschrift DE No. 3,402,483, the reaction of 5.0 grams (0.029 mole) of 2-bromophenol, 6.0 grams (0.043 mole) of potassium carbonate, and 5.5 grams (0.03 mole) of 1-bromo-2-fluoroethane in 50 ml of N,N-dimethylformamide yielded 4.9 grams of 2-bromophenyl 2-fluoroethyl ether as an oil.

reactant | 2-bromophenol | 0.029 mole, 5.0 grams | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | potassium carbonate | 0.043 mole, 6.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-fluoroethane | 0.03 mole, 5.5 grams | BrCCF | C2H4BrF
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-bromophenyl 2-fluoroethyl ether | 4.9 grams | FCCOC1=C(C=CC=C1)Br | C8H8BrFO
